Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"I feel hopeless"
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
Pt is a ___ y/o married ___ woman ___ speaking 
only)

presenting with recent exacerbation of depressed mood and
self-harm behaviors. Pt has been experiencing low mood,
anhedonia,tearfulness,"panic attacks" and difficulty sleeping
since ___ following her son's suicide attempt ___ yo w
depression and drug use). At that time, pt sought help from a
psychiatrist, who prescribed her alprazolam, sertraline and
trazadone. Pt moved to the ___ in ___ to 
join
her fiancee on a K (fiancee) visa and they married in ___. Pt
had also been seeing a therapist with her husband to work 
through
marital problems.  

Shortly after her arrival, the patient discovered a letter and
text messages between her husband and a younger woman he had 
been
sharing an apartment with (a "roommate") before the patient's
arrival in the ___. Pt became concerned that her
husband was romantically involved with this woman, and brought 
up
her concern during a session with their therapist. Her husband
denied any romantic involvement, but the pt remained concerned
and confronted the mother of the woman. This woman has moved to 
a
different state and the pt is no longer concerned about her, but
the patient remains upset because she feels she can no longer
trust her husband and worries on a daily basis that he will 
cheat
on her. She has also been preoccupied with regrets and feelings
of guilt about her decision to come the ___, leaving
behind her family (she feels she should be caring for her mother
and adult children)  and a successful career.  

Patient reports experiencing intense and increasing sadness,
fear, anger and anxiety over the past month. She states that she
has been having difficulty  "controlling her emotions", which
leads her to become overwhelmed. Since her arrival in the ___ she
has been experienced ___ panic attacks. She describes her
symptoms during panic attacks as rapid heart rate, shortness of
breath, and chest tightness. This past ___, her husband
wanted to take her on a walk to help her calm down, but her
feelings of guilt and regret become so intense that she felt the
desire to "hurt herself or punish herself" so she ran into a 
busy
street. She was not hit by any oncoming traffic and her husband
brought her home immediately. Her distress did not dissipate 
over
the next few days which is why she sought help in the emergency
department. 

Pt denies intense feelings of sadness and panic attacks at any
earlier point in her life. 

Pt denies SI to this author, but to previous authors she 
endorses
intermittent thoughts of passive SI: "She describes these
thoughts as fleeting thoughts of jumping out of a moving car or
jumping off of a bridge in order to end her life and stop her
sadness."

She denies any prior intent or plan to end her life. 

Patient reports that she feels very isolated here although she
does have friends from her ___ class who she enjoys spending
time with. When asked if she would like to meet new people and
make friends, she says "my husband and I don't like having 
people
over to our house." 

During this time, she has been followed by her psychiatrist, Dr.
___ at ___, who last week increased her dose of sertraline 
to
150 mg daily. 

 
Past Medical History:
hysterectomy ___ years ago
lymphadenectomy (possible biopsy ___ enlarged nodes, benign
pathology)
gluteal implants
 
Social History:
___
Family History:
son ___ yo) w MDD, drug use and suicide attempt
daughter ___ yo) w possible MDD and drug use
mother w possible ___
brother with panic attacks

 
Physical Exam:
-HEENT: Normocephalic, atraumatic. Moist mucous membranes,
oropharynx clear.
 -Cardiovascular: Regular rate and rhythm, normal S1,S2, no
murmurs/rubs/gallops. 
 -Pulmonary: No increased work of breathing.  Lungs clear to
auscultation bilaterally. No wheezes/rhonchi/rales.
 -Abdominal: Normoactive bowel sounds. Abdomen soft, nontender,
nondistended. No guarding, no rebound tenderness.
 -Extremities: Warm and well-perfused.  No edema of the limbs.
-Skin: No bruising, rashes or lesions noted

Neurological:
 -Cranial Nerves:
 ---I: Olfaction not tested.
 ---II: pupils 3mm, equal, round, reactive to light
 ---III, IV, VI: extraocular movements intact
 ---V: Masseter ___ bilaterally
 ---VII: nasolabial folds symmetric bilaterally
 ---VIII: Hearing intact to conversation
 ---IX, X: Palate elevates symmetrically
 ---XI:  trapezii ___ symmetric bilaterally
 ---XII: Tongue protrudes midline
 -Motor: Normal bulk and tone bilaterally. Strength ___ in
deltoids, biceps, triceps. 
 -Sensory: deferred
 -DTRs: 2+ patellar, biceps, triceps 
 Coordination: not tested
 -Gait: narrow based, normal initiation, arm swing 

Absence of resting tremor,
Absence of rigidity or spasticity
Absence of asterixis

Cognition: 
 -Wakefulness/alertness: Awake and alert
 -Attention: not tested
 -Orientation: BI, ___ ___
 -Executive function:
     absence of ideomotor apraxia: able to brush teeth, comb 
hair
 -Memory: immediate memory intact
 -Fund of knowledge: deferred
 -Calculations: deferred
 -Abstraction: deferred
 -Visuospatial: L thumb to R. ear
 -Language: Native ___ speaker, no paraphasic errors,
appropriate to conversation

Mental Status:
 -Appearance/Behavior: Tried appearing with well-groomed
hair,age-appearing ___ female
 -Attitude: Cooperative, engaged, friendly
 -Mood: "depressed"
 -Affect: congruent, dysphoric, reactive,
intermittently tearful
 -Speech: Normal rate, volume, and tone
 -Thought process: tangential, coherent, organized
 -Thought Content: 
 ---Safety: feels safe
 ---Delusions: No evidence of delusions
 ---Obsessions/Compulsions: No evidence based on current
encounter
 ---Hallucinations: -AH 
 -Perceptual disturbances: does not appear to be responding to
internal stimuli
 -Insight: fair
 -Judgment: fair

 
Pertinent Results:
___ 06:27AM BLOOD FSH-91* TSH-3.0
___ 06:27AM BLOOD Triglyc-160* HDL-39* CHOL/HD-7.8 
LDLcalc-232*
___ 09:15PM URINE  HOURS-RANDOM
___ 09:15PM URINE  UCG-NEGATIVE
___ 09:15PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 08:43PM   GLUCOSE-87 UREA N-18 CREAT-0.8 SODIUM-139 
POTASSIUM-4.2 CHLORIDE-101 TOTAL CO2-26 ANION GAP-12
___ 08:43PM   estGFR-Using this
___ 08:43PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
tricyclic-NEG
___ 08:43PM   WBC-10.5* RBC-4.43 HGB-13.1 HCT-39.6 MCV-89 
MCH-29.6 MCHC-33.1 RDW-12.5 RDWSD-41.1
___ 08:43PM   NEUTS-54.9 ___ MONOS-7.7 EOS-1.0 
BASOS-0.8 IM ___ AbsNeut-5.78 AbsLymp-3.72* AbsMono-0.81* 
AbsEos-0.11 AbsBaso-0.08
___ 08:43PM   PLT COUNT-___cute on chronic exacerbation of MDD in setting of new life 
stressors. Unclear if pt's self harm attempt was a suicidal 
gesture, attention seeking, or manifestation of self-hatred. In 
the hospital, she was continued on her home regimen of 
sertraline, clonazepam, and trazadone and was augmented w/ 5mg 
Abilify qhs. Clonazepam was increased to 1mg BID. She was also 
provided with individual, group, and milieu therapy which she 
participated in well and seemed to respond to well. She was 
provided with psychoeducation around appropriate medication use 
specifically regarding benzodiazepines. She had no suicidal 
thoughts or thoughts of self harm once admitted. She was 
discharged with plan to follow up as an outpatient with her 
psychiatrist on ___ at ___, urgent 
referral to ___-based ___ speaking therapist,  as well as 
with her therapist in ___ (who she follows with over the 
phone and video chat).

Risk assessment: low

Modifiable Risk Factors:

- History of attempted self harm and fleeting SI
- Social withdrawal 
- Insomnia
- Impulsivity
- Lack of life satisfaction
- Discord in interpersonal relationship
- Suicidal ideation
- History of abuse 

Protective Factors

- Established outpatient treatment 
- Future-oriented viewpoint 
- Sense of responsibility to family 
- Spirituality 
- No rage/anger/revenge 
- No recent loss 
- Positive therapeutic relationship with outpatient providers
- ___ partner

___ Risk ___:

#Risk factors noted include:
 -Suicidal behavior: denies 
 -Current/past psychiatric diagnosis: MDD
 -Key symptoms: depression, anxiety
 -Family history: brother, daughter, son, mother with mood
disorders 
 -Precipitants/stressors: infidelity, immigrant to new country
 -Changes in treatment including hospital dispo, recently 
increased sertraline dose to 150, addition of 5mg Abilify.
 -Access to firearms: denies

#Protective factors noted include:
 -Internal: ability to cope with stress, religious beliefs,
frustration tolerance
 -External: social supports

#Suicide Inquiry:
 -Ideation: denies current
 -Plan: denies current
 -Behaviors: denies current
 -Intent: denies current

#Homicide inquiry: denies

#Risk level:
 Given the above my overall assessment is that the patient's
suicide risk is: low

DSM 5 DIAGNOSES: MDD, panic disorder, GAD

During the hospital course, several meetings with pt and her 
husband were held. We obtained pt's and husbands impression and 
concern. Pt and husband were provided with 
psychoeducation about pt's condition. We reviewed resources and 
supports available to pt and her husband.

INFORMED CONSENT: The team discussed the indications for, 
intended benefits of, and possible side effects and risks of 
starting/continuing these medications (Abilify,  Sertraline, and 
Clonazepam). Discussed risks and benefits of possible 
alternatives, including not taking the medication, with this 
patient. We discussed the patient's right to decide whether to 
take this medication as well as the importance of the patient's 
actively participating in the treatment and discussing any 
questions about medications with the treatment team.  The 
patient appeared able to understand and consented to begin the 
medication.

 
Medications on Admission:
sertraline 150 mg QD
trazadone 50 mg QHS
Clonazepam (0.5 QHS/PRN)

 
Discharge Medications:
sertraline 150 mg QD
trazadone 50 mg QHS
clonazepam (1 QHS/PRN)
abilify 5 mg 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Major Depressive Disorder
Generalized Anxiety Disorder
Panic Disorder

 
Discharge Condition:
Mental Status:
-Appearance: well groomed wearing black pants and top
-Behavior/Attitude: sitting upright in chair, engaged and
cooperative
-Mood: 'good'
-Affect: ego syntonic, able to laugh and smile 
-Speech: normal tone, volume and speed
-Thought process: linear
-Thought Content: appropriate
-Insight: good
-Judgment: fair

Cognition: 
-Wakefulness/alertness: alert
-Attention: attentive
-Orientation: AOx3
-Memory: not tested
-Language: ___, normal vocabulary 
Ms. ___ clearly denied ___ of psychosis. She denied S/H/I. She 
reported about appropriate steps in case of emergency. Pt and 
her husband asked good questions about pt's follow up.
 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___